US07683060B2
Step 2. 6-Phenyl-1,2,4-triazin-3(2H)-one
[(Aminocarbonyl)hydrazono](phenyl)acetaldehyde (3.00 g, 0.0157 mol) in acetic acid (15.0 mL) was heated at 130° C. for 6 h. After cooling, the solvent was removed under reduced pressure. The residue was triturated with ether, filtered, washed with ether, and dried under high vacuum to give the desired product (2.45 g, 90.1%). Analytical LCMS: (M+H)+=174.0.

reactant | [(Aminocarbonyl)hydrazono](phenyl)acetaldehyde | 0.0157 mol, 3.00 g | NC(=O)NN=C(C=O)C1=CC=CC=C1 | C9H9N3O2
solvent | acetic acid | 15.0 mL | C(C)(=O)O | C2H4O2
product | 6-Phenyl-1,2,4-triazin-3(2H)-one | 2.45 g, 90.1% | C1(=CC=CC=C1)C=1C=NC(NN1)=O | C9H7N3O
